US08614215B2
2-{4-Methoxy-2-[(3-{[(1-methyl-1H-imidazol-4-yl)sulfonyl]amino}quinoxalin-2-yl)amino]phenyl}ethyl N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-valinate
To a suspension of N-(3-{[2-(2-hydroxyethyl)-5-methoxyphenyl]amino}quinoxalin-2-yl)-1-methyl-1H-imidazole-4-sulfonamide (200 mg; 0.44 mmol; 1 eq), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (92.8 mg; 0.48 mmol; 1.1 eq) and N,N-dimethylpyridin-4-amine (59 mg; 0.48 mmol; 1.1 eq) in a mixture of DCM (10 mL) and DMF (1 mL) is added fmoc-l-valine (164 mg; 0.48 mmol; 1.1 eq). The reaction mixture is stirred for 18 h at room temperature. Water is added and organic phase is washed several times with 10% citric acid then dried under MgSO4. The solvent is removed under reduced pressure and residue purified by flash chromatography using EtOAc as eluent to afford 200 mg (59%) of the title compound as a yellow gum. HPLC (max plot) 98%; Rt 5.46 min. LC/MS: (ES+): 775.7, (ES−): 773.9.

reactant | N-(3-{[2-(2-hydroxyethyl)-5-methoxyphenyl]amino}quinoxalin-2-yl)-1-methyl-1H-imidazole-4-sulfonamide | 0.44 mmol, 200 mg, 1 eq | OCCC1=C(C=C(C=C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1N=CN(C1)C | C21H22N6O4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.48 mmol, 92.8 mg, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | fmoc-l-valine | 0.48 mmol, 164 mg, 1.1 eq | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)O | C20H21NO4
reactant | Water | O | H2O
catalyst | N,N-dimethylpyridin-4-amine | 0.48 mmol, 59 mg, 1.1 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{4-Methoxy-2-[(3-{[(1-methyl-1H-imidazol-4-yl)sulfonyl]amino}quinoxalin-2-yl)amino]phenyl}ethyl N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-valinate | 200 mg, 59% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C(=O)OCCC1=C(C=C(C=C1)OC)NC1=NC2=CC=CC=C2N=C1NS(=O)(=O)C=1N=CN(C1)C | C41H41N7O7S
